US06455528B1
(1) 1-Acetyl-4-(6-(dimethylamino)-4-fluoropyrimidin-2-yl)piperazine
1-Acetyl-4-(4,6-difluoropyrimidin-2-yl)piperazine (1.9 g) was dissolved in 12% dimethylamine-ethanol solution (30 ml) and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure. Water was added to the residue and the mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give the title compound (2.1 g) as a yellow solid.

reactant | 1-Acetyl-4-(4,6-difluoropyrimidin-2-yl)piperazine | 1.9 g | C(C)(=O)N1CCN(CC1)C1=NC(=CC(=N1)F)F | C10H12F2N4O
reactant | dimethylamine ethanol | 30 ml | CNC.C(C)O
product | 1-Acetyl-4-(6-(dimethylamino)-4-fluoropyrimidin-2-yl)piperazine | 2.1 g | C(C)(=O)N1CCN(CC1)C1=NC(=CC(=N1)F)N(C)C | C12H18FN5O
